data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_25962_0,[C:1]([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])(/[C:5]([C:2]([H:11])([H:12])[H:13])=[N:7]/[N:6]([H:9])[H:10])[H:8]>>[C:1]([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])=[C:5]([C:2]([H:11])([H:12])[H:13])[N:7]([N:6]([H:9])[H:10])[H:8],66.9429549999505
MR_318651_1,[N:1]([C:2]([O:5][H:9])=[O:7])([C:3]([O:6][H:10])=[O:8])[N:4]([H:11])[H:12]>>[N:1](=[C:2](/[O:5][H:9])[O:7][C:3]([O:6][H:10])=[O:8])\[N:4]([H:11])[H:12],45.91166500000924
MR_340734_0,[C:1]1([C:4]([H:15])([H:16])[H:17])([C:5]([H:14])([H:18])[H:19])[C@:2](/[C:7]([O:8][H:10])=[N:9]/[C:6]([H:20])([H:21])[H:22])([H:11])[C:3]1([H:12])[H:13]>>[C:1]1([C:4]([H:15])([H:16])[H:17])([C:5]([H:14])([H:18])[H:19])[C:3]([H:12])([H:13])[C:2]([H:11])=[C:7]([O:8][H:10])[N:9]1[C:6]([H:20])([H:21])[H:22],49.78773249999648
MR_370834_0,[C:1]([C:4](=[C:5](/[C:2]([H:17])([H:18])[H:19])[N:7]([H:11])[H:12])/[C:6]([C:3]([H:20])([H:21])[H:22])=[C:8](\[O:9][H:10])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:4]1=[C:6]([C:3]([H:20])([H:21])[H:22])[C@:8]([O:9][H:10])([H:13])[C@@:5]1([C:2]([H:17])([H:18])[H:19])[N:7]([H:11])[H:12])([H:14])([H:15])[H:16],41.29953999998989
MR_339370_1,[C:1](/[C:4]([C:2]([O:9][H:11])=[O:10])=[C:7]([C:3](/[N:5]([H:12])[H:13])=[C:8](\[N:6]([H:14])[H:15])[H:17])\[H:16])([H:18])([H:19])[H:20]>>[C:1]([C:4]1=[C:7]([H:16])[C@:3]1([N:5]([H:12])[H:13])[C@@:8]([C:2]([O:9][H:11])=[O:10])([N:6]([H:14])[H:15])[H:17])([H:18])([H:19])[H:20],61.7880424999818
MR_159476_0,[C:1]([C:4](/[C:5]([C:2]([H:12])([H:13])[H:14])=[C:6](/[C:3]([H:15])([H:16])[H:17])[H:8])=[O:7])([H:9])([H:10])[H:11]>>[C:1]([C:4]1=[C:5]([C:2]([H:12])([H:13])[H:14])[C@@:6]([C:3]([H:15])([H:16])[H:17])([H:8])[O:7]1)([H:9])([H:10])[H:11],50.19498000003836
MR_523278_2,[C@@:1]([C:2]([O:5][N:4]([H:10])[H:11])([H:12])[H:13])([O:6][C:3]([H:14])([H:15])[H:16])([O:7][H:8])[H:9]>>[C@:1]([C:2]([O:6][C:3]([H:14])([H:15])[H:16])([H:12])[H:13])([O:5][N:4]([H:10])[H:11])([O:7][H:8])[H:9],71.49170249998718
MR_270460_1,[C:1](/[C:5](=[C:4](/[C:6]([C:2]([H:18])([H:19])[H:20])[C:7]([C:3]([H:21])([H:22])[H:23])[N:8]([H:13])[H:14])[O:9][H:11])[O:10][H:12])([H:15])([H:16])[H:17]>>[C:1]([C@:5]1([O:10][H:12])[C:4]([O:9][H:11])=[C:6]([C:2]([H:18])([H:19])[H:20])[C@@:7]1([C:3]([H:21])([H:22])[H:23])[N:8]([H:13])[H:14])([H:15])([H:16])[H:17],37.10658499998232
MR_457204_0,[C:1]1([N:6]([H:11])[H:12])([O:7][H:8])[C:2]([N:5]([C:4]([H:15])([H:16])[H:17])[H:9])([H:10])[C:3]1([H:13])[H:14]>>[C:1]([C:2](=[C:3]([H:13])[H:14])[H:10])([N:5]([C:4]([H:15])([H:16])[H:17])[H:9])([N:6]([H:11])[H:12])[O:7][H:8],57.75572749999668
MR_495383_1,[C:1](/[C:5]([C:3]([H:16])([H:17])[H:18])=[C:4](\[C:2]([H:13])([H:14])[H:15])[N:6]([H:9])[H:10])([O:7][H:8])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C@:5]([C:3]([H:16])([H:17])[H:18])([C@@:4]([C:2]([H:13])([H:14])[H:15])([N:6]([H:9])[H:10])[H:8])[O:7]1,71.45091499998315
MR_96085_1,[C:1]([C:2](=[O:6])[H:10])([C:3]([H:13])([H:14])[H:15])([C:4]([O:7][H:9])([H:11])[H:12])[O:5][H:8]>>[C:1]([C:2]([O:6][H:9])([H:10])[H:11])([C:3]([H:13])([H:14])[H:15])([C:4](=[O:7])[H:12])[O:5][H:8],58.14352249998066
MR_407580_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([C:5]12[C:8]([H:13])([C:6]([C:4]([H:20])([H:21])[H:22])=[N:10]1)[O:9]2)[N:7]([H:11])[H:12]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([c:5]1[o:9][c:8]([H:13])[c:6]([C:4]([H:20])([H:21])[H:22])[n:10]1)[N:7]([H:11])[H:12],24.869707499987896
MR_393966_0,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])(/[C:4](=[C:6](/[O:8][H:11])[H:13])[O:7][H:10])[C:5](=[O:9])[H:12]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])=[C:4]([C:6]([C:5](=[O:9])[H:12])([O:8][H:11])[H:13])[O:7][H:10],49.42692000001571
MR_288186_0,[C:1]([N:2]1[C:4]2([H:9])[N:6]1[C:3]([O:5][H:8])=[N:7]2)([H:10])([H:11])[H:12]>>[C:1]([n:2]1[c:4]([H:9])[n:7][c:3]([O:5][H:8])[n:6]1)([H:10])([H:11])[H:12],13.092160000010864
MR_602247_0,[C:1]([C:2]([H:18])([H:19])[H:20])([C:5]([C:3]([H:21])([H:22])[H:23])=[C:4]([N:8]([H:14])[H:15])[N:9]([H:16])[H:17])([N:6]([H:10])[H:11])[N:7]([H:12])[H:13]>>[C:1](\[C:2]([H:18])([H:19])[H:20])(=[C:5](\[C:3]([H:21])([H:22])[H:23])[C:4]([N:7]([H:12])[H:13])([N:8]([H:14])[H:15])[N:9]([H:16])[H:17])[N:6]([H:10])[H:11],62.931975000018525
MR_352953_0,[C:1]([C:3]([H:17])([H:18])[H:19])([N:4]([C:5](=[C:6]([H:15])[H:16])[O:7][C:2]([H:12])([H:13])[H:14])[O:8][H:9])([H:10])[H:11]>>[C:1]([C:3]([H:17])([H:18])[H:19])([C:5]([N:4]([O:7][C:2]([H:12])([H:13])[H:14])[O:8][H:9])=[C:6]([H:15])[H:16])([H:10])[H:11],71.1685399999827
MR_308731_1,[C:1]([C:2](/[C:5]([C:6](=[O:8])[H:11])=[N:7]\[H:10])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[H:9]>>[C:1]([C:2](/[C:5]([C:6]([O:8][H:18])([H:9])[H:11])=[N:7]\[H:10])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])=[C:4]([H:17])[H:19],62.9997449999901
